US04830470
A mixture of 2 g of (S)-4-(6-methyloctyloxy)benzoic acid 2-bromo-4-[2-(trans-4-pentylcyclohexyl)ethyl]phenyl ester, 0.5 g of anhydrous copper(I) cyanide and 50 ml of absolute 1-methyl-2-pyrrolidone was heated to 185° C. on a oil-bath for 2 hours. The cooled mixture was subsequently treated with 50 ml of 15% ammonia solution and stirred for 30 minutes. Thereafter, the reaction mixture was extracted three times with 50 ml of diethyl ether each time. The combined organic phases were washed twice with 250 ml of water each time, dried over magnesium sulphate and concentrated. Chromatography of the residue on silica gel with toluene/hexane (vol. 1:1) gave 0.1 g of (S)-4-(6-methyloctyloxy)benzoic acid 2-cyano-4-[2-(trans-4-pentylcyclohexyl)ethyl]phenyl ester; m.p. (C-Ch) 80° C., transition S*C -Ch 50° C. (monotropic), cl.p. (Ch-I) 120° C.

reactant | (S)-4-(6-methyloctyloxy)benzoic acid 2-bromo-4-[2-(trans-4-pentylcyclohexyl)ethyl]phenyl ester | 2 g | BrC1=C(C=CC(=C1)CC[C@@H]1CC[C@H](CC1)CCCCC)OC(C1=CC=C(C=C1)OCCCCC[C@H](CC)C)=O | C35H51BrO3
reactant | copper(I) cyanide | 0.5 g | [Cu]C#N
reactant | ammonia | 50 ml | N | H3N
solvent | 1-methyl-2-pyrrolidone | 50 ml | CN1C(CCC1)=O | C5H9NO
product | (S)-4-(6-methyloctyloxy)benzoic acid 2-cyano-4-[2-(trans-4-pentylcyclohexyl)ethyl]phenyl ester | 0.1 g | C(#N)C1=C(C=CC(=C1)CC[C@@H]1CC[C@H](CC1)CCCCC)OC(C1=CC=C(C=C1)OCCCCC[C@H](CC)C)=O | C36H51NO3
